US07304161B2
To the biphasic preparation of (1-ethyl-2,2-dimethyl-propyl)-hydrazine described above, was added a solution of approximately one gram 3(S)-(tert-butyl-dimethyl-silanyloxymethyl)-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid pentafluorophenyl ester dissolved in 10 mL ethyl acetate. The mixture was stirred at room temperature for 2 hours, after which time the aqueous phase was withdrawn and replaced with 1 M K2CO3. The mixture was stirred overnight. The aqueous layer was separated off, and the organic layer was extracted once with 1 M K2CO3 and then once with water. The organic phase was dried. The crude product was chromatographed on silica gel using a step gradient of 10% ether in hexane followed by neat ether, yielding 3(S)-hydroxymethyl-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid N′-(1-ethyl-2,2-dimethyl-propyl)-hydrazide. 1H NMR (500 MHz, CDCl3) δ (ppm): 7.15 (br, 1H), 6.85 (d, 1H), 6.73 (d, 1H), 4.85 (br, 1H), 4.3 (d, 1H), 4.25 (m, 1H), 4.1 (dd, 1H), 3.87 (m, 2H), 2.41 (m, 1H), 2.29 (s, 3H), 1.8 (br, 1H); 1.65 (m, 1H), 1.3 (m, 1H), 1.45 (t, 3H), 0.98 (s, 9H); TLC: Rf.=0.23 (1:1 ethyl acetate:hexane).

reactant | (1-ethyl-2,2-dimethyl-propyl)-hydrazine | C(C)C(C(C)(C)C)NN | C7H18N2
reactant | 3(S)-(tert-butyl-dimethyl-silanyloxymethyl)-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid pentafluorophenyl ester | approximately one gram | FC1=C(C(=C(C(=C1OC(=O)C1=C(C2=C(OC[C@H](O2)C(O[SiH2]C(C)(C)C)(C)C)C=C1)C)F)F)F)F | C23H25F5O5Si
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3(S)-hydroxymethyl-5-methyl-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid N′-(1-ethyl-2,2-dimethyl-propyl)-hydrazide | C(C)C(C(C)(C)C)NNC(=O)C1=C(C2=C(OC[C@@H](O2)CO)C=C1)C | C18H28N2O4
